US04123256
To a solution of 4-(2-fluorobenzyloxy)phenyl isocyanate (24.3 g) in benzene (150 ml), a solution of N,O-dimethylhydroxylamine (20 g) in benzene (100 ml) is added dropwise at 20° to 30° C., and the resulting mixture is stirred at the same temperature for 30 minutes. The reaction mixture is concentrated in vacuo, and the residual crude crystals are recrystallized from ethanol to give N-[4-(2-fluorobenzyloxy)phenyl]-N'-methyl-N'-methoxyurea (Compound No. 1) (18 g) as white scales. M.P., 99° to 100° C.

reactant | 4-(2-fluorobenzyloxy)phenyl isocyanate | 24.3 g | FC1=C(COC2=CC=C(C=C2)N=C=O)C=CC=C1 | C14H10FNO2
reactant | N,O-dimethylhydroxylamine | 20 g | CNOC | C2H7NO
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-[4-(2-fluorobenzyloxy)phenyl]-N'-methyl-N'-methoxyurea | 18 g | FC1=C(COC2=CC=C(C=C2)NC(=O)N(OC)C)C=CC=C1 | C16H17FN2O3
